US07745646B2
Sodium hydride (40 mg, 60%, 1.0 mmol) was added to a solution of 4-amino-8-(cyclopentyloxy)-3-fluoro-7-methoxy-2H-chromen-2-one (95 mg, 0.32 mmol), 3,4,5-trichloropyridine (118 mg, 0.65 mmol), and DMSO (3 mL) at rt under N2. After 1.5 h, the reaction was heated at 50° C. for 2 h and then 70° C. for 2 h. The reaction was allowed to cool to rt, poured into 1M KH2PO4 (30 mL) and extracted with ethyl acetate (40 mL×2). The combined extracts were dried, filtered, concentrated, and purified by silica gel chromatography (7:3→0:1; hexanes:ethyl acetate) to give 8-(cyclopentyloxy)-4-(3,5-dichloropyridin-4-ylamino)-3-fluoro-7-methoxy-2H-chromen-2-one: 1H NMR (400 MHz, DMSO-d6): δ 9.36 (s, 1H), 8.70 (s, 2H), 7.90 (d, 1H), 7.25 (d, 1H), 4.84 (m, 1H), 3.90 (s, 3H), 1.90-1.45 (m, 8H); MS (ESI): 438.8.

reactant | Sodium hydride | 1.0 mmol, 40 mg | [H-].[Na+]
reactant | 4-amino-8-(cyclopentyloxy)-3-fluoro-7-methoxy-2H-chromen-2-one | 0.32 mmol, 95 mg | NC1=C(C(OC2=C(C(=CC=C12)OC)OC1CCCC1)=O)F | C15H16FNO4
reactant | 3,4,5-trichloropyridine | 0.65 mmol, 118 mg | ClC=1C=NC=C(C1Cl)Cl | C5H2Cl3N
reactant | KH2PO4 | 1M, 30 mL | OP(=O)(O)[O-].[K+]
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | 8-(cyclopentyloxy)-4-(3,5-dichloropyridin-4-ylamino)-3-fluoro-7-methoxy-2H-chromen-2-one | C1(CCCC1)OC=1C(=CC=C2C(=C(C(OC12)=O)F)NC1=C(C=NC=C1Cl)Cl)OC | C20H17Cl2FN2O4
